US06831186B2
Triphenylphosphine (64.1 g, 0.244 mol) was added to a solution of 1-bromo-5-trimethylsilylpent-2-en-4-yne (44.26 g, 0.204 mol) in toluene (204 mL). The mixture was stirred at ambient temperature under a nitrogen atmosphere. After 3 days the suspension was diluted with methyl tert-butyl ether (408 mL), stirred for 1 hour at ambient temperature, and the precipitate was collected by filtration. The filter cake was washed with methyl tert-butyl ether and dried under vacuum at 30° C. to get 79 g of 5-trimethylsilylpent-2-en-4-ynyltriphenyl-phosphonium bromide, a compound of formula (O), as an off-white powder: 1H-NMR (300 mHz, CDCl3) δ 0.14 (s, 9H), 5.08 (dd, 2H), 5.91 (dt, 1H), 6.22 (dd, 1H), 7.6-8.0 (m, 15H); Anal. Calculated for C26H28BrPSi requires C 65.13, H 5.89, Br 16.66, P 6.46; found C 64.95, H 5.78, Br 16.96, P 6.31.

reactant | Triphenylphosphine | 0.244 mol, 64.1 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 1-bromo-5-trimethylsilylpent-2-en-4-yne | 0.204 mol, 44.26 g | BrCC=CC#C[Si](C)(C)C | C8H13BrSi
solvent | toluene | 204 mL | C1(=CC=CC=C1)C | C7H8
solvent | methyl tert-butyl ether | 408 mL | C(C)(C)(C)OC | C5H12O
product | 5-trimethylsilylpent-2-en-4-ynyltriphenyl-phosphonium bromide | 79 g | [Br-].C[Si](C#CC=CC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)(C)C | InChI=1S/C26H28PSi.BrH/c1-28(2,3)23-15-7-14-22-27(24-16-8-4-9-17-24,25-18-10-5-11-19-25)26-20-12-6-13-21-26;/h4-14,16-21H,22H2,1-3H3;1H/q+1;/p-1
